### PR TITLE
[Merged by Bors] - feat(Combinatorics/SimpleGraph): miscellaneous walk lemmas

### PR DESCRIPTION
**Pull request by pimotte**
Adds some miscellaneous lemmas on walks, in preparation for Tutte's theorem.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

[Thread on Tutte](https://leanprover.zulipchat.com/#narrow/channel/287929-mathlib4/topic/Tutte's.20theorem)

[How these lemma's would be used can be found in this commit (marked as In walk_lemmas)](https://github.com/pimotte/TutteLean/blob/28110387bcda3e7c2f4bc137f877420eed30ea49/TutteLean/Part2.lean#L43)

Hopefully the last prequisite PR, after this I expect it all to be the actual proof of Tutte's:D

### CODE REVIEW

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 1]
```diff
@@ -397,6 +397,53 @@ lemma exists_isCycle_snd_verts_eq {p : G.Walk v v} (h : p.IsCycle) (hadj : p.toS
 
 end IsCycle
 
+/-- This lemma considers the `SimpleGraph.Walk` until any vertex in a given set. You could
+interpret this as being `takeUntilSet`, but this cannot be defined since= we give up the knowledge
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:401]:
```suggestion
interpret this as being `takeUntilSet`, but this cannot be defined since we give up the knowledge
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 2]
```diff
@@ -397,6 +397,53 @@ lemma exists_isCycle_snd_verts_eq {p : G.Walk v v} (h : p.IsCycle) (hadj : p.toS
...
+of what the endpoint is, compared to normal `SimpleGraph.Walk.takeUntil` usage. -/
+lemma exists_mem_support_forall_not_adj_toSubgraph_takeUntil {u v} [DecidableEq V] {p : G.Walk u v}
+    {s : Set V} (hs : s.Finite) (h : (s ∩ p.support.toFinset).Nonempty) : ∃ x ∈ s,
+    ∃ (hx : x ∈ p.support), (∀ t ∈ s, ∀ w ∈ s, ¬(p.takeUntil x hx).toSubgraph.Adj t w) := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:405]:
```suggestion
    {s : Set V} (hs : s.Finite) (h : (s ∩ p.support.toFinset).Nonempty) :
    ∃ x ∈ s, ∃ (hx : x ∈ p.support),
      ∀ t ∈ s, ∀ w ∈ s, ¬(p.takeUntil x hx).toSubgraph.Adj t w := by
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 3]
```diff
@@ -397,6 +397,54 @@ lemma exists_isCycle_snd_verts_eq {p : G.Walk v v} (h : p.IsCycle) (hadj : p.toS
 
 end IsCycle
 
+/-- This lemma considers the `SimpleGraph.Walk` until any vertex in a given set. You could
+interpret this as being `takeUntilSet`, but this cannot be defined since we give up the knowledge
+of what the endpoint is, compared to normal `SimpleGraph.Walk.takeUntil` usage. -/
+lemma exists_mem_support_forall_not_adj_toSubgraph_takeUntil {u v} [DecidableEq V] {p : G.Walk u v}
+    {s : Set V} (hs : s.Finite) (h : (s ∩ p.support.toFinset).Nonempty) :
+    ∃ x ∈ s, ∃ (hx : x ∈ p.support),
+      ∀ t ∈ s, ∀ w ∈ s, ¬(p.takeUntil x hx).toSubgraph.Adj t w := by
```
Comment (YaelDillies) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:406]: You could define `firstHit p s := p.get (iInf x \in s, p.find x)` (wishful syntax), then you could replace this lemma by a def of type `Walk u (p.firstHit s)`

Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: Fair enough, that seemed a bit involved to me, but I guess that means it's not impossible to define. I've adapted the comment accordingly:)

**Review by YaelDillies — APPROVED** [review]
Thanks!

maintainer delegate

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 4]
```diff
@@ -397,6 +397,56 @@ lemma exists_isCycle_snd_verts_eq {p : G.Walk v v} (h : p.IsCycle) (hadj : p.toS
 
 end IsCycle
 
+/-- This lemma considers the `SimpleGraph.Walk` until any vertex in a given set. You could
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:400]: Can you give some more detail on what the lemma is actually saying here: at the moment the only actual descriptor is "considers", which doesn't help the reader much!

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 5]
```diff
@@ -397,6 +397,56 @@ lemma exists_isCycle_snd_verts_eq {p : G.Walk v v} (h : p.IsCycle) (hadj : p.toS
...
+    push_neg at htrx
+    exact h t ⟨ht, by simp [htrx.1]⟩ r ⟨hr, by simp [htrx.2]⟩
+  use x, hx.1, hx.2
+  intro t ht r hr
+  by_cases htrx : t = x ∧ r = x
+  · exact fun hadj ↦ hadj.ne (htrx.2 ▸ htrx.1)
+  by_cases htx : t = x
+  · subst htx
+    have : r ∈ s \ {t} := by simp [not_and.mp htrx rfl, hr]
+    simp only [List.coe_toFinset,Set.not_nonempty_iff_eq_empty,
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:437]:
```suggestion
    simp only [List.coe_toFinset, Set.not_nonempty_iff_eq_empty,
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 6]
```diff
@@ -397,6 +397,56 @@ lemma exists_isCycle_snd_verts_eq {p : G.Walk v v} (h : p.IsCycle) (hadj : p.toS
...
+      aesop
+    push_neg at htrx
+    exact h t ⟨ht, by simp [htrx.1]⟩ r ⟨hr, by simp [htrx.2]⟩
+  use x, hx.1, hx.2
+  intro t ht r hr
+  by_cases htrx : t = x ∧ r = x
+  · exact fun hadj ↦ hadj.ne (htrx.2 ▸ htrx.1)
+  by_cases htx : t = x
+  · subst htx
+    have : r ∈ s \ {t} := by simp [not_and.mp htrx rfl, hr]
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:436]:
```suggestion
  obtain rfl | htx := eq_or_ne t x
  · have : r ∈ s \ {t} := by simp [not_and.mp htrx rfl, hr]
```
this is the usual (and cleaner) way to write this pattern!

File: Mathlib/Combinatorics/SimpleGraph/Metric.lean [hunk 7]
```diff
@@ -192,13 +192,23 @@ protected theorem Reachable.pos_dist_of_ne (h : G.Reachable u v) (hne : u ≠ v)
     0 < G.dist u v :=
   Nat.pos_of_ne_zero (by simp [h, hne])
 
+protected theorem Reachable.one_lt_dist_of_ne_of_not_adj (h : G.Reachable u v) (hne : u ≠ v)
+    (hnadj : ¬G.Adj u v) : 1 < G.dist u v := Nat.lt_of_le_of_ne (h.pos_dist_of_ne hne) (by
+    by_contra! hc
+    obtain ⟨p, hp⟩ := Reachable.exists_walk_length_eq_dist h
+    exact hnadj (Walk.exists_length_eq_one_iff.mp ⟨p, hc ▸ hp⟩))
```
Comment (b-mehta) [inline Mathlib/Combinatorics/SimpleGraph/Metric.lean:199]:
```suggestion
    (hnadj : ¬G.Adj u v) : 1 < G.dist u v := 
  Nat.lt_of_le_of_ne (h.pos_dist_of_ne hne) (by
    by_contra! hc
    obtain ⟨p, hp⟩ := Reachable.exists_walk_length_eq_dist h
    exact hnadj (Walk.exists_length_eq_one_iff.mp ⟨p, hc ▸ hp⟩))
```

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean (hunk 4 above)
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean]: Fixed to be more specific:)

**Review by b-mehta — COMMENTED** [review]
Here are some local improvements you can make

**Comment by b-mehta** [comment]
Taking a closer look at the proof here, I realise you can streamline and strengthen it a bit, take a look at this:

```
lemma exists_mem_support_forall_absent {u v} [DecidableEq V] {p : G.Walk u v}
    (s : Finset V) (h : {x ∈ s | x ∈ p.support}.Nonempty) :
    ∃ x ∈ s, ∃ hx : x ∈ p.support, {t ∈ s.erase x | t ∈ (p.takeUntil x hx).support} = ∅ := by
  simp only [← subset_empty]
  induction' hp : p.length + #s using Nat.strong_induction_on with n ih generalizing s v
  simp only [Finset.Nonempty, mem_filter] at h
  obtain ⟨x, hxs, hx⟩ := h
  obtain h | h := Finset.eq_empty_or_nonempty {t ∈ s.erase x | t ∈ (p.takeUntil x hx).support}
  · use x, hxs, hx, h.le
  have : (p.takeUntil x hx).length + #(s.erase x) < n := by
    rw [← card_erase_add_one hxs] at hp
    have := p.length_takeUntil_le hx
    omega
  obtain ⟨y, hys, hyp, h⟩ := ih _ this (s.erase x) h rfl
  use y, mem_of_mem_erase hys, support_takeUntil_subset p hx hyp
  rwa [takeUntil_takeUntil, erase_right_comm, filter_erase, erase_eq_of_not_mem] at h
  simp only [mem_filter, mem_erase, ne_eq, not_and, and_imp]
  rintro hxy -
  exact not_mem_support_takeUntil_takeUntil' (Ne.symm hxy) hx hyp

lemma exists_mem_support_forall_absent' {u v} [DecidableEq V] {p : G.Walk u v}
    (s : Finset V) (h : {x ∈ s | x ∈ p.support}.Nonempty) :
    ∃ x ∈ s, ∃ (hx : x ∈ p.support),
      ∀ t ∈ s, t ∈ (p.takeUntil x hx).support → t = x := by
  obtain ⟨x, hxs, hx, h⟩ := p.exists_mem_support_forall_absent s h
  use x, hxs, hx
  suffices {t ∈ s | t ∈ (p.takeUntil x hx).support} ⊆ {x} by simpa [subset_iff] using this
  rwa [filter_erase, ← subset_empty, ← subset_insert_iff, insert_emptyc_eq] at h

lemma exists_mem_support_forall_not_adj_toSubgraph_takeUntil' {u v} [DecidableEq V] {p : G.Walk u v}
    (s : Finset V) (h : {x ∈ s | x ∈ p.support}.Nonempty) :
    ∃ x ∈ s, ∃ (hx : x ∈ p.support),
      ∀ t ∈ s, ∀ w ∈ s, ¬(p.takeUntil x hx).toSubgraph.Adj t w := by
  obtain ⟨x, hxs, hx, h⟩ := p.exists_mem_support_forall_absent' s h
  use x, hxs, hx
  intro t ht w hw h'
  apply h'.ne
  simp only [← mem_verts_toSubgraph] at h
  rw [h t ht (Subgraph.edge_vert _ h'), h w hw (Subgraph.edge_vert _ h'.symm)]

lemma exists_mem_support_forall_not_adj_toSubgraph_takeUntil {u v} [DecidableEq V] {p : G.Walk u v}
    {s : Set V} (hs : s.Finite) (h : (s ∩ p.support.toFinset).Nonempty) :
    ∃ x ∈ s, ∃ (hx : x ∈ p.support),
      ∀ t ∈ s, ∀ w ∈ s, ¬(p.takeUntil x hx).toSubgraph.Adj t w := by
  have : (filter (fun x ↦ x ∈ p.support) hs.toFinset).Nonempty := by
    obtain ⟨x, hxs, hxp⟩ := h
    use x, by simpa [hxs] using hxp
  simpa using p.exists_mem_support_forall_not_adj_toSubgraph_takeUntil' hs.toFinset this
```
(the names aren't ideal, but hopefully you get the idea).
The last one is your original statement, and the penultimate is similar but in terms of Finset, since that usually makes this kind of proof nicer. Then instead of asserting that any two elements of s are not related in the restriction of p, we can instead say that anything in s and the restriction of p must be equal to x, or equivalently that `{t ∈ s.erase x | t ∈ (p.takeUntil x hx).support}` is empty. And now the induction can be done much more cleanly.

This does depend on a lemma (again I haven't given it the correct name):
```
lemma not_mem_support_takeUntil_takeUntil' [DecidableEq V] {p : G.Walk u v} {w x : V} (h : x ≠ w)
    (hw : w ∈ p.support) (hx : x ∈ (p.takeUntil w hw).support) :
    w ∉ (p.takeUntil x (p.support_takeUntil_subset hw hx)).support := by
  rw [← takeUntil_takeUntil]
  exact not_mem_support_takeUntil_takeUntil h _ hx
```
which is a better formulation of the existing `not_mem_support_takeUntil_takeUntil`, because of the lemma `takeUntil_takeUntil`

**Comment by pimotte** [comment]
@b-mehta Thanks! I've adopted your suggested split and refactored it a little bit. I kept `(h : {x ∈ s | x ∈ p.support}.Nonempty)` as hypothesis in the final lemma, since it makes no difference for my usage.

File: Mathlib/Combinatorics/SimpleGraph/Path.lean [hunk 8]
```diff
@@ -1226,6 +1226,26 @@ lemma top_supp_eq_univ (c : ConnectedComponent (⊤ : SimpleGraph V)) :
...
 
+lemma reachable_induce_supp {v w} {c : ConnectedComponent G} (hv : v ∈ c.supp) (hw : w ∈ c.supp)
+    (p : G.Walk v w) : (G.induce c.supp).Reachable ⟨v, hv⟩ ⟨w, hw⟩ := by
+  induction p with
+  | nil => rfl
+  | @cons u v w h p ih =>
+    have : v ∈ c.supp := (c.mem_supp_congr_adj h).mp hv
+    obtain ⟨q⟩ := ih this hw
+    have hadj : (G.induce c.supp).Adj ⟨u, hv⟩ ⟨v, this⟩ := h
+    use q.cons hadj
```
[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Path.lean]: Doesn't work, unfortunately. I just also tried inlining it with a cast, that doesn't do the trick either.

File: Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean [hunk 9]
```diff
@@ -397,6 +397,67 @@ lemma exists_isCycle_snd_verts_eq {p : G.Walk v v} (h : p.IsCycle) (hadj : p.toS
...
+  obtain ⟨x, hxs, hx, h⟩ := p.exists_mem_support_mem_erase_mem_support_takeUntil_eq_empty s h
+  use x, hxs, hx
+  suffices {t ∈ s | t ∈ (p.takeUntil x hx).support} ⊆ {x} by simpa [Finset.subset_iff] using this
+  rwa [Finset.filter_erase, ← Finset.subset_empty, ← Finset.subset_insert_iff, insert_emptyc_eq]
+    at h
+
+lemma exists_mem_support_forall_not_adj_toSubgraph_takeUntil (s : Finset V)
+    (h : {x ∈ s | x ∈ p.support}.Nonempty) :
+    ∃ x ∈ s, ∃ (hx : x ∈ p.support),
+      ∀ t ∈ s, ∀ w ∈ s, ¬(p.takeUntil x hx).toSubgraph.Adj t w := by
```
[the remark this answers is not in the document]
Comment (pimotte) [reply Mathlib/Combinatorics/SimpleGraph/Connectivity/Subgraph.lean:444]: I'm not sure, I'll withdraw them for now and try to inline them in #22915

**Review by b-mehta — COMMENTED** [review]
Thank you!

bors d+

**Comment by b-mehta** [comment]
@pimotte There's some build failures here, it looks like you'll need to merge master, fix the build, then send it back to bors!

bors r-
bors d+
